US05059628
In 150 ml of ethanol was dissolved 22.8 g of ethyl 2,5-dibromovalerate, and 15 g of potassium carbonate was suspended in the solution. To the suspension was added dropwise a methanolic solution of 18.5 g of laurylamine under ice-cooling. After the addition, the reaction mixture was allowed by react at a refluxing temperature of methanol for 5 hours to obtain N-dodecylproline ethyl ester.

reactant | ethyl 2,5-dibromovalerate | 22.8 g | BrC(C(=O)OCC)CCCBr | C7H12Br2O2
reactant | potassium carbonate | 15 g | C([O-])([O-])=O.[K+].[K+]
reactant | laurylamine | 18.5 g | C(CCCCCCCCCCC)N | C12H27N
reactant | methanol | CO | CH4O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | N-dodecylproline ethyl ester | C(C)OC([C@H]1N(CCC1)CCCCCCCCCCCC)=O | C19H37NO2
